US06933311B2
4-(8-azabicyclo[3.2.1]oct-8-yl)-3-fluorobenzonitrile
3,4-Difluorobenzonitrile (1.75 g; 25.1 mmol), 8-aza-bicyclo[3.2.1]octane hydrochloride (2.1 g; 13.8 mmol), and diisopropylethylamine (3.2 g; 25.1 mmol), were combined in DMSO (30 mL) and heated at 120° C. overnight. The mixture was allowed to cool to ambient temperature, poured into brine (75 mL), and extracted with diethyl ether (2×50 mL). The organics were combined, dried over MgSO4, filtered, and the filtrate was concentrated under reduced pressure. The residue was filtered through a pad of silica gel (ethyl acetate as eluent) to provide the title compound. 1H NMR (DMSO-d6) δ 7.69 (dd, 1H), 7.42 (dd, 1H), 7.15 (t, 1H), 4.41 (s, 2H), 1.98 (m, 2H), 1.62-1.86 (m, 5H), 1.41 (m, 3H); MS (ESI) m/z 231, (M+H)+.

reactant | 3,4-Difluorobenzonitrile | 25.1 mmol, 1.75 g | FC=1C=C(C#N)C=CC1F | C7H3F2N
reactant | 8-aza-bicyclo[3.2.1]octane hydrochloride | 13.8 mmol, 2.1 g | Cl.C12CCCC(CC1)N2
reactant | diisopropylethylamine | 25.1 mmol, 3.2 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
solvent | brine | 75 mL | [Cl-].[Na+].O
product | 4-(8-azabicyclo[3.2.1]oct-8-yl)-3-fluorobenzonitrile | C12CCCC(CC1)N2C2=C(C=C(C#N)C=C2)F | C14H15FN2
